US05776884
Preparation of 2-cyclopentylidene-cyclopentanol
A 2 liter round bottom flask, fitted with a mechanical stirrer, a reflux condenser and a thermometer, was charged with 412.4 g (2.75 mol) of 2-Cyclopentylidene-cyclopentanone and 500 ml methanol. The mixture was stirred until homogeneous at room temperature and then 40 g of sodium borohydride was added in small portions over a period of 1.5 hour. The reaction mixture was thereafter stirred for another 4 hours. During addition as well as thereafter the temperature was kept below 40° C. by cooling with a cold water bath if necessary. The reaction mixture was further stirred overnight. Thereafter it was quenched by dropwise addition, with stirring, of 250 ml of water. The aqueous and organic layers were separated and the aqueous layer extracted twice with 200 ml diethyl ether. The combined organic layers were washed with 200 ml water and dried over magnesium sulphate. After filtration the solvent was removed using a rotary evaporator and 444 g of crude product were obtained. This was fractioned under reduced pressure (0.4 kPa) through a 0.5 meter Sulzer-packed column. Fractions were collected at 90°-100° C. and odour assessed. The total of fractions with an acceptable odour was 182.9 g. The product could be further purified by recristallization from methanol.

reactant | 2-Cyclopentylidene-cyclopentanone | 2.75 mol, 412.4 g | C1(CCCC1)=C1C(CCC1)=O | C10H14O
reactant | sodium borohydride | 40 g | [BH4-].[Na+]
solvent | methanol | 500 ml | CO | CH4O
product | 2-cyclopentylidene-cyclopentanol | 444 g | C1(CCCC1)=C1C(CCC1)O | C10H16O
